US05106849
N-[2-[4-(2-Pyrimidinyl)-1-piperazinyl]ethyl]tricyclo[3.3.1.13,7 ]decane-1-carboxamide Dihydrochloride Hydrate
To a stirred solution of [4-(2-pyrimidinyl)piperazinyl]ethylamine (2.0 g, 0.01 mol) in 50 mL of methylene chloride, adamantane-1-carboxylic acid chloride (3.6 g, 0.018 mol) and triethylamine (2.9 g, 0.015 mol) were added. Stirring was continued at room temperature overnight. The methylene chloride solution was washed with water, dried over anhydrous sodium sulfate and evaporated under reduced pressure. The remaining residue was dissolved in ethyl acetate (10 mL) and subjected to column chromatography using silica gel and ethyl acetate as the eluent. The title compound was separated and converted to the dihydrochloride hydrate salt with ethanolic HCl (2.4 g), m.p. 237°-239° C.

reactant | [4-(2-pyrimidinyl)piperazinyl]ethylamine | 0.01 mol, 2.0 g | N1=C(N=CC=C1)N1CCN(CC1)CCN | C10H17N5
reactant | adamantane-1-carboxylic acid chloride | 0.018 mol, 3.6 g | C12(CC3CC(CC(C1)C3)C2)C(=O)Cl | C11H15ClO
reactant | triethylamine | 0.015 mol, 2.9 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | N-[2-[4-(2-Pyrimidinyl)-1-piperazinyl]ethyl]tricyclo[3.3.1.13,7 ]decane-1-carboxamide Dihydrochloride Hydrate | O.Cl.Cl.N1=C(N=CC=C1)N1CCN(CC1)CCNC(=O)C12CC3CC(CC(C1)C3)C2 | InChI=1S/C21H31N5O.2ClH.H2O/c27-19(21-13-16-10-17(14-21)12-18(11-16)15-21)22-4-5-25-6-8-26(9-7-25)20-23-2-1-3-24-20;;;/h1-3,16-18H,4-15H2,(H,22,27);2*1H;1H2
